.START
..device	value	footprint	quantity	refdes
CAPACITOR	1pF	0402	2	CE1 CE2
CAPACITOR	2.2uF	0402	3	C1 C2 Cout
directive	.options TEMP=25	unknown	1	A3
model	unknown	unknown	1	A1
NPN_TRANSISTOR	unknown	unknown	2	Q1 Q2
RESISTOR	1	0402	1	R8
RESISTOR	10	0402	1	R5
RESISTOR	100	0402	2	RE1 RE2
RESISTOR	100K	0402	1	RL
RESISTOR	1K	0402	1	RC2
RESISTOR	2.8K	0402	1	R4
RESISTOR	28K	0402	2	R1 R3
RESISTOR	2K	0402	1	R2
RESISTOR	3.3K	0402	1	RC1
VOLTAGE_SOURCE	DC 15V	none	1	VCC
vsin	DC 1.6V AC 10MV SIN(0 1MV 1KHZ)	none	1	Vinput
.END
